US04309422
Preparation of S-Ethyl S-Hexyl O-(3-Formylmethylphenyl) Dithiophosphate
A solution of S-ethyl S-hexyl chlorodithiophosphate (0.03 mole) in methylene chloride (50 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer. Triethylamine (0.03 mole) is added and the mixture is cooled to a temperature of about 0° C. A solution of 3-hydroxylphenylacetaldehyde (0.03 mole) in methylene chloride (15 ml) is slowly added with stirring while maintaining the temperature of the reaction mixture at about 0° C. After the addition is completed, the reaction mixture is allowed to warm to room temperature and stirring is continued for a period of about 1 hour. After this time the reaction mixture is transferred to a separatory funnel and methylene chloride (100 ml) is added. The resulting solution is then washed with water, dilute aqueous sodium hydroxide and again with water. The washed solution is dried over anhydrous magnesium sulfate, is filtered and stripped of solvent under vacuum to yield the desired product S-ethyl S-hexyl O-(3-formylmethylphenyl) dithiophosphate.

reactant | S-ethyl S-hexyl chlorodithiophosphate | 0.03 mole | P(=O)(SCC)(SCCCCCC)Cl | C8H18ClOPS2
reactant | Triethylamine | 0.03 mole | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxylphenylacetaldehyde | 0.03 mole | OC=1C=C(C=CC1)CC=O | C8H8O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | S-ethyl S-hexyl O-(3-formylmethylphenyl) dithiophosphate | P(=O)(SCC)(SCCCCCC)OC1=CC(=CC=C1)CC=O | C16H25O3PS2
